US06720295B2
Synthesis of 4-(2-cyclopenten-1-yl)-2-methyl-2-butanol
5.3 g (40.6 mmol) of 3-(2-chloroethyl)-1-cyclopentene (obtained according to Hill et al. in J. Org. Chem., 1969, 3681), dissolved into 30 ml of dry THF, were added dropwise into a three necks 200 ml flask containing 1.2 g (48.7 mmol) of magnesium and 5 ml of dry THF. After a 2 hours stirring at room temperature, 2.8 g (48.7 mmol) of acetone were slowly added to the reaction mixture. 15 Minutes after the addition of the acetone, the reaction mixture was slowly hydrolysed using 1 M aqueous HCl, and extracted with ether. Then, the organic phase was washed twice with water and twice with brine, dried over MgSO4 and concentrated. The crude product was purified by chromatography over silica (eluant: cyclohexane/ethyle acetate=9/1). It was thus obtained 2.7 g of the title compound (yield=47%).

reactant | 3-(2-chloroethyl)-1-cyclopentene | 40.6 mmol, 5.3 g | ClCCC1C=CCC1 | C7H11Cl
reactant | magnesium | 48.7 mmol, 1.2 g | [Mg] | Mg
reactant | HCl | 1 M | Cl | ClH
reactant | acetone | CC(=O)C | C3H6O
reactant | acetone | 48.7 mmol, 2.8 g | CC(=O)C | C3H6O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-(2-cyclopenten-1-yl)-2-methyl-2-butanol | 2.7 g, yield=47% | C1(C=CCC1)CCC(C)(O)C | C10H18O
